US07897767B2
A solution of 2-[(aminooxy)methyl]-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (700 mg, 2.42 mmol) in methanol (12 mL) and acetone (12 mL) was stirred at room temperature for 1 day, then was concentrated under reduced pressure to yield an oil. The oil was diluted with acetonitrile and concentrated under reduced pressure to yield a solid that was recrystallized from acetonitrile. The crystals were isolated by filtration, washed with acetonitrile, and dried in a vacuum oven to yield 379 mg of acetone O-{[4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methyl}oxime as white crystals, mp 176-177° C.

reactant | 2-[(aminooxy)methyl]-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 2.42 mmol, 700 mg | NOCC=1N(C2=C(C(=NC=3CCCCC23)N)N1)CC(C)C | C15H23N5O
reactant | acetone | 12 mL | CC(=O)C | C3H6O
solvent | methanol | 12 mL | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | acetone O-{[4-amino-1-(2-methylpropyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-2-yl]methyl}oxime | 379 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CC(C)C)CON=C(C)C | C18H27N5O
